US08877921B2
Resolved (+) voacangine (200 mg, 1 equivalent) and 1-dodecanethiol (1.5 equivalent) in dimethyl formamide (DMF, 1.2 mL) was added to a mixture of sodium tertiary butoxide (1.5 equivalent) in DMF (0.8 mL) at 100° C. and the reaction mixture stirred in the dark at 110-120° C. for 6 h and then at room temperature for about 12 h. Volatiles were removed in vacuum, and after aqueous work-up, (+) ibogaine was isolated by extraction with dichloromethane. The organic portion was washed with water and dried over MgSO4. Volatiles were removed to provide ibogaine as a foamy solid (140 mg). A solution of ibogaine thus obtained, in dichloromethane (DCM, 1.4 mL), was added to a 1 molar BBr3 (1.5 equivalent) solution in DCM at 0-5° C. over a 2 h period to provide a suspension, which was stirred at room temperature for 12 h. Then, the reaction mixture was cooled to 0-5° C. and MeOH (0.6 mL) was added to it drop wise over a period of 15 minutes and the resulting mixture stirred at room temperature for 12 h. Volatiles were removed in vacuum, and the residue was separated by column chromatography on silica gel using 5% MeOH/CHCl3 as the eluent to obtain (+) noribogaine (70 mg) as a foamy solid. Specific rotations determined for the naturally occurring (−) enantiomers, and the synthetic (+) enantiomers made according to this invention are tabulated below, which demonstrate the stereochemistry and enantiomeric purity of the synthetic enantiomers prepared according to this invention.

reactant | voacangine | 200 mg, 1 equivalent | CC[C@H]1C[C@H]2C[C@@]3([C@H]1N(C2)CCC4=C3NC5=C4C=C(C=C5)OC)C(=O)OC | C22H28N2O3
reactant | 1-dodecanethiol | 1.5 equivalent | C(CCCCCCCCCCC)S | C12H26S
reactant | sodium tertiary butoxide | 1.5 equivalent | CC(C)([O-])C.[Na+]
solvent | dimethyl formamide | 1.2 mL | CN(C=O)C | C3H7NO
solvent | DMF | 0.8 mL | CN(C=O)C | C3H7NO
product | ibogaine | CC[C@H]1C[C@H]2C[C@@H]3[C@H]1N(C2)CCC4=C3NC5=C4C=C(C=C5)OC | C20H26N2O
